US06770643B2
(a) 3-Bromo-5-methoxy-indole-1-carboxylic Acid tert-Butyl Ester
A solution of 5-methoxyindole (10 g) in dry dimethylformamide (150 mL) at ambient temperature was treated with bromine (4 mL) dropwise ensuring the temperature did not rise above 30° C. The mixture was treated immediately with triethylamine (28 mL) and 4-dimethylaminopyridine (0.5 g) followed by a solution of di-tert-butyldicarbonate (18 g) in dry dimethylformamide (80 mL) and stirring was continued for a further 4 hours. The reaction mixture was evaporated and the residue was partitioned between ethyl acetate (250 mL) and water (200 mL). The aqueous layer was extracted with ethyl acetate (100 mL). The combined organic phases were washed with water (100 mL), then with brine (100 mL), then dried over magnesium sulfate and then evaporated. The residue was subjected to flash column chromatography on silica eluting with a mixture of pentane and ethyl acetate (19/1, v/v) to give the title compound (23.4 g) as a colourless solid, m.p. 111-112° C.

reactant | 5-methoxyindole | 10 g | COC=1C=C2C=CNC2=CC1 | C9H9NO
reactant | bromine | 4 mL | BrBr | Br2
reactant | triethylamine | 28 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyldicarbonate | 18 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 0.5 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
product | 3-Bromo-5-methoxy-indole-1-carboxylic Acid tert-Butyl Ester | 23.4 g | C(C)(C)(C)OC(=O)N1C=C(C2=CC(=CC=C12)OC)Br | C14H16BrNO3
